US07829560B2
3-Fluoro-N-[4-({2-[isopropyl(methyl)amino]pyrimidin-4-yl}oxy)-1-naphthyl]-5-morpholin-4-ylbenzamide (Compound B322).
Compound is prepared from 3-fluoro-N-(4-{[2-(methylsulfonyl)pyrimidin-4-yl]oxy}-1-naphthyl)-5-morpholin-4-ylbenzamide and N-isopropylmethylamine according to conditions described in general procedure C. Mp: 94-96° C.; 1H NMR (400 MHz, CDCl3) δ 1.06-1.14 (m, 6 H), 2.84 (s, 3 H), 3.25 (t, J=4.0 Hz, 4 H), 3.87 (t, J=4.8 Hz, 4H), 5.95 (d, J=5.2 Hz, 1 H), 6.78 (d, J=11.2 Hz, 1 H), 7.07 (d, J=8.0 Hz, 1H), 7.31 (d, J=8.0 Hz, 1 H), 7.49-7.59 (m, 3 H), 7.89 (d, J=8.8 Hz, 1 H), 7.96 (d, J=7.6 Hz, 1H), 8.01 (d, J=8.0 Hz, 1 H), 8.14-8.17 (m, 2 H).

reactant | 3-fluoro-N-(4-{[2-(methylsulfonyl)pyrimidin-4-yl]oxy}-1-naphthyl)-5-morpholin-4-ylbenzamide | FC=1C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)OC2=NC(=NC=C2)S(=O)(=O)C)C=C(C1)N1CCOCC1 | C26H23FN4O5S
reactant | N-isopropylmethylamine | C(C)(C)NC | C4H11N
product | 3-Fluoro-N-[4-({2-[isopropyl(methyl)amino]pyrimidin-4-yl}oxy)-1-naphthyl]-5-morpholin-4-ylbenzamide | FC=1C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)OC2=NC(=NC=C2)N(C)C(C)C)C=C(C1)N1CCOCC1 | C29H30FN5O3
